US05747535
Synthesis of (S)-N-cyclopentyl-N-methyl-3-(4-cyano phenyl)-2-(butoxycarbonylamino) propionamide
To a solution of (S)-3-(4-cyanophenyl)-2-(butyloxycarbonyl-amino) propionic acid (0.7 g, 2.41 mmole) in dimethylformamide (DMF, 6 ml) were added, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride(EDC, 0.7 g) and 1-hydroxybenzotriazole hydrate (HOBT, 0.4 g) at 0° C. The mixture was stirred until they are completely dissolved therein. To this reaction mixture were added the compound (0.4 g, 2.96 mmole) prepared in Preparation 1 and N-methylmorpholine(1.0 ml) and then the reaction temperature was slowly elevated to room temperature. The reaction solution was stirred for 3.5 hours. After the reaction is completed, the reaction solution was concentrated under reduced pressure to remove the volatile substances and the remaining residue was diluted with ethyl acetate, washed successively with aqueous saturated sodium hydrogen carbonate solution, dilute hydrochloric acid and brine, dried over anhydrous sodium sulfate, filtered and then concentrated. The residue was purified by column chromatography (ethyl acetate:hexane=7:3 (v/v)) to obtain the purified title compound (0.65 g, Yield: 73.0%). 1H NMR(CDCl3, ppm) δ: 7.61(m, 2H), 7.32(m, 2H), 5.48, 5.01-4.86, 4.12(3m, 3H), 2.75, 2.72, 2.62(2s, 3H), 2.90-1.20(m, 17H) Mass(FAB, m/e): 372(M+ +1)

reactant | (S)-3-(4-cyanophenyl)-2-(butyloxycarbonyl-amino) propionic acid | 2.41 mmole, 0.7 g | C(#N)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OCCCC | C15H18N2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.7 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 0.4 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 1.0 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (S)-N-cyclopentyl-N-methyl-3-(4-cyano phenyl)-2-(butoxycarbonylamino) propionamide | 0.65 g, Yield: 73.0% | C1(CCCC1)N(C([C@H](CC1=CC=C(C=C1)C#N)NC(=O)OCCCC)=O)C | C21H29N3O3
